US08629271B2
a) 2-(2,3-Difluoro-4-hydroxyphenyl)acetic acid
A solution of boron tribromide (1M in DCM, 13.4 mL) was added dropwise to suspension of 2-(2,3-difluoro-4-methoxyphenyl)acetic acid (1.18 g) in DCM (5 mL) at −78° C. The reaction was allowed to warm to RT and stirred overnight. The reaction was cooled to −78° C. and a solution of boron tribromide (1M in DCM, 13.4 mL) was added. The reaction was allowed to warm to RT and stirred for 1 h. The reaction was poured onto ice. The resulting aqueous solution was extracted with DCM (5×50 mL). The aqueous phase was then extracted with ethyl acetate (3×100 mL). The organic solutions were combined, washed with brine (50 mL), dried over magnesium sulphate, filtered and evaporated to give the subtitled compound as a tan solid. Yield 1.09 g.

reactant | boron tribromide | 1M, 13.4 mL | B(Br)(Br)Br | BBr3
reactant | 2-(2,3-difluoro-4-methoxyphenyl)acetic acid | 1.18 g | FC1=C(C=CC(=C1F)OC)CC(=O)O | C9H8F2O3
reactant | boron tribromide | 1M, 13.4 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2,3-Difluoro-4-hydroxyphenyl)acetic acid | FC1=C(C=CC(=C1F)O)CC(=O)O | C8H6F2O3
